US05728699
Preparation of N-(4-Chloro-4'-trifluoromethylsulfonylmethylbenzhydryl)-N'-methoxycarbonylhydrazine Hydrochloride (Compound No. V-13)
N-(4-chloro-4'-trifluoromethylsulfonylmethylbenzhydryl) -N'-methoxycarbonylhydrazine (1.6 g) was added to methanol (80 ml), and hydrochloric acid (3 ml) was added thereto with stirring at room temperature. The mixture was gradually heated to the reflux temperature and stirred for 2 hours under reflux, and then it was left to cool. The solvent was distilled off under reduced pressure to obtain the desired product as a slightly yellow powder (1.6 g, melting point: 52° to 54° C., yield: 91.5%).

reactant | N-(4-chloro-4'-trifluoromethylsulfonylmethylbenzhydryl) -N'-methoxycarbonylhydrazine | 1.6 g | ClC1=CC=C(C(C2=CC=C(C=C2)CS(=O)(=O)C(F)(F)F)NNC(=O)OC)C=C1 | C17H16ClF3N2O4S
reactant | hydrochloric acid | 3 ml | Cl | ClH
solvent | methanol | 80 ml | CO | CH4O
product | N-(4-Chloro-4'-trifluoromethylsulfonylmethylbenzhydryl)-N'-methoxycarbonylhydrazine Hydrochloride | Cl.ClC1=CC=C(C(C2=CC=C(C=C2)CS(=O)(=O)C(F)(F)F)NNC(=O)OC)C=C1 | InChI=1S/C17H16ClF3N2O4S.ClH/c1-27-16(24)23-22-15(13-6-8-14(18)9-7-13)12-4-2-11(3-5-12)10-28(25,26)17(19,20)21;/h2-9,15,22H,10H2,1H3,(H,23,24);1H
